US05998470
a) N-benzyloxycarbonyl-L-leucine methyl ester
To a stirring solution of L-leucine methyl ester hydrochloride (2.0 g, 11.0 mmol) in 1,4-dioxane (20 mL) was added Na2CO3 (12.1 ml, 2M in water) followed by benzylchloroformate (1.96 g, 11.5 mmol). The mixture was stirred at room temperature for 4 h then partitioned between ethyl acetate and water. The organic layer was washed with brine, dried (MgSO4), filtered and concentrated to yield the title compound as a colorless oil (3.1 g, 100%). 1H NMR (400 MHz, CDCl3) δ 7.34 (m, 5H), 5.27 (d, 1H), 5.12 (s, 2H), 4.41 (s, 2H), 3.75 (s, 3H), 1.65 (m, 3H), 0.96 (m, 6H).

reactant | L-leucine methyl ester hydrochloride | 11.0 mmol, 2.0 g | Cl.COC([C@@H](N)CC(C)C)=O
reactant | Na2CO3 | 2M, 12.1 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | benzylchloroformate | 11.5 mmol, 1.96 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N-benzyloxycarbonyl-L-leucine methyl ester | 3.1 g, 100% | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O | C15H21NO4
